US07989438B2
Step 6: methyl 14-cyclohexyl-7-(3-oxo-3-piperazin-1-ylpropyl)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
Methyl 7-{3-[4-(tert-butoxycarbonyl)piperazin-1-yl]-3-oxopropyl}-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate (0.04 M) in DCM was treated with TFA (170 eq) and stirred at RT overnight. The volatiles were then removed in vacuo and the residue partitioned between sat. aq. NaHCO3 and EtOAc. The combined organics were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo to afford the product as an off-white foam (100%) that was used without further purification. (ES+) m/z 530 (M+H)+.

reactant | Methyl 7-{3-[4-(tert-butoxycarbonyl)piperazin-1-yl]-3-oxopropyl}-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 0.04 M | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CCC1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2)=O | C37H47N3O6
reactant | TFA | 170 eq | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl 14-cyclohexyl-7-(3-oxo-3-piperazin-1-ylpropyl)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 100% | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC(COC3=C(C21)C=CC=C3)CCC(N3CCNCC3)=O)C(=O)OC | C32H39N3O4
